US08835472B2
1-(4-((4-Ethoxyphenyl)ethynyl)phenyl)ethanamine
To 25.0 g (62.90 mmol) tert-butyl 1-(4-((4-ethoxyphenyl)ethynyl)phenyl)ethyl-carbamate (I62) in 375 mL EtOAc are added 79 mL (315 mmol) HCl (4M in dioxane). The mixture is stirred at r.t. over night, filtered and the obtained precipitate is dried. The crude product is suspended in DCM and sat. NaHCO3 is added until a clear solution is obtained. The layers are separated and the aqueous layer is extracted two more times with DCM. The organic layers are combined, washed with brine (1×), dried with Na2SO4 and the solvent is removed in vacuo. The residue is purified by column chromatography (silica gel, heptane/EtOAc/TEA 75/25/1→0/100/1).

reactant | tert-butyl 1-(4-((4-ethoxyphenyl)ethynyl)phenyl)ethyl-carbamate | 62.90 mmol, 25.0 g | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(C)NC(OC(C)(C)C)=O | C23H27NO3
reactant | HCl | 315 mmol, 4M, 79 mL | Cl | ClH
solvent | EtOAc | 375 mL | CCOC(=O)C | C4H8O2
product | 1-(4-((4-Ethoxyphenyl)ethynyl)phenyl)ethanamine | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(C)N | C18H19NO
